US07763627B2
(1S,2R)-1-[(2-Pyridin-4-ylquinazolin-4-yl)amino]-2,3-dihydro-1H-inden-2-ol:
4-Chloro-2-pyridin-4-ylquinazoline (1 mmol) was dissolved into N,N-dimethylacetamide (0.5 M), followed by addition of diispropylethylamine (2 mmol) and 1S, 2R-(−)-cis-1-amino-2-indanol (1.2 mmol) and was stirred at 85° C. for 2 h. The reaction was poured into water and back-extracted with ethyl acetate (3×). The combined organic layers were washed with 1N HCl, followed by a brine wash, and dried over magnesium sulfate. The final product was purified by MPLC and lyophilized to a yellow powder. (78%) 1H NMR (400 MHz, d6-DMSO): δ 8.75 (d, 2H), 8.55 (d, 1H), 8.35 (m, 2H), 7.85 (d, 2H), 7.55 (m, 1H), 7.35 (d, 2H), 7.25 (m, 2H), 6.15 (m, 1H), 4.85 (m, 1H), 3.25 (dd, 1H), 3.00 (d, 1H). MS (EI) for C22H18N4O: 355 (MH+).

reactant | 4-Chloro-2-pyridin-4-ylquinazoline | 1 mmol | ClC1=NC(=NC2=CC=CC=C12)C1=CC=NC=C1 | C13H8ClN3
reactant | N,N-dimethylacetamide | 0.5 M | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | (1S,2R)-1-[(2-Pyridin-4-ylquinazolin-4-yl)amino]-2,3-dihydro-1H-inden-2-ol | N1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)N[C@@H]1[C@@H](CC2=CC=CC=C12)O | C22H18N4O
